US04725610
Reduced iron (10.6 g) was added portionwise mixture of 4-{2-[2-(2-chlorophenyl)-5-methyl-4-oxazolyl]ethoxy}nitrobenzene (22.9 g), acetic acid (150 ml) and water (50 ml) at 70° C. After stirring at 80° C. for 2 hours, the insoluble matter was filtered off, and the filtrate was concentrated under reduced pressure. Water was added to the filtrate, and the aqueous mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4) and concentrated to give 4-{2-[2-(2-chlorophenyl)-5-methyl-4-oxazolyl]ethoxy}aniline as a crude oily material (20.5 g, 97.6%). NMR δppm in CDCl3 : 2.35(3H, s), 2.93(2H, t, J=7 Hz), 3.77(2H, s), 4.15(2H, t, J=7 Hz), 6.56(2H, d, J=9 Hz), 6.75(2H, d, J= 9 Hz), 7.2 to 7.5(3H, m), 7.9 (1H, m).

reactant | 4-{2-[2-(2-chlorophenyl)-5-methyl-4-oxazolyl]ethoxy}nitrobenzene | 22.9 g | ClC1=C(C=CC=C1)C=1OC(=C(N1)CCOC1=CC=C(C=C1)[N+](=O)[O-])C | C18H15ClN2O4
reactant | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
solvent | water | 50 ml | O | H2O
product | 4-{2-[2-(2-chlorophenyl)-5-methyl-4-oxazolyl]ethoxy}aniline | ClC1=C(C=CC=C1)C=1OC(=C(N1)CCOC1=CC=C(N)C=C1)C | C18H17ClN2O2
